US05278158
To a suspension of 20.9 g 4-acetyl-3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazine in 200 ml ethanol, was added a catalytic amount of Raney nickel, and the catalytic hydrogenation was carried out at ordinary temperature and pressure. The catalyst was filtered off from the reaction mixture, and the solvent was distilled off from the filtrate, giving 18.2 g of crude 4-acetyl-6-amino-3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazine.

reactant | 4-acetyl-3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazine | 20.9 g | C(C)(=O)N1CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)C | C12H14N2O4
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 4-acetyl-6-amino-3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazine | 18.2 g | C(C)(=O)N1CC(OC2=C1C=C(C=C2)N)(C)C | C12H16N2O2
